US05003017
A mixture of 149 g of 3,6-dichloropyridazine, 268.4 g of 2-allylphenol, 152 g of potassium carbonate, 400 ml of N-methylpyrrolidone and 900 ml of toluene was heated at 140° C. for 30 hours, the resulting water of reaction being distilled off azeotropically. Working up similarly to Example la) gave 317 g (92%) of a partially crystalline product, which consisted of an isomer mixture of allyl-containing and propenyl-containing products. After the addition of methanol and filtration, 140 g of pure 3,6-bis-(2-propenylphenoxy)-pyridazine were obtained as colorless crystals of melting point 165°-168° C.; 1H-NMR: 1.80 (d, CH ), 5.70-5.90 (m, small amount of cis-isomer), 6.20-6.50 (m, 4H, olef.) 7.0-7.7 (m, 1OH, arom.).

reactant | 3,6-dichloropyridazine | 149 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 2-allylphenol | 268.4 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | potassium carbonate | 152 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 400 ml | CN1C(CCC1)=O | C5H9NO
reactant | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3,6-bis-(2-propenylphenoxy)-pyridazine | 140 g | C(=CC)C1=C(OC=2N=NC(=CC2)OC2=C(C=CC=C2)C=CC)C=CC=C1 | C22H20N2O2
